US04314061
3,6-bis(3-chloropropoxy)acridine hydrochloride
To a mixture of 11.80 g. of sodium hydride (61.14% oil dispersion) and 26.0 g. of 3,6-acridinediol sulfate (2:1) is added 250 ml. of dry N,N-dimethylformamide. The mixture is stirred at room temperature for 1.5 hours, then 49.8 g. of 3-chloropropyl-p-toluene sulfonate are added. This mixture is stirred at room temperature for 3 hours and 20 minutes, then at 50° C. for 2 hours. The volatile materials are removed under reduced pressure at 35°-40° C. and the residue is quenched with 1200 ml. of ice-cold saturated aqueous sodium bicarbonate solution. The resulting tan crystals are collected and dissolved in 500 ml. of chloroform. A 30 ml. portion of 6 N hydrochloric acid in isopropanol is added and the mixture is diluted with ether. The solid is collected and recrystallized from ether, giving the desired product as tan crystals, m.p. 211°-213° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 3,6-acridinediol sulfate | S(=O)(=O)(O)OC=1C=CC2=CC3=CC=C(C=C3N=C2C1)O | C13H9NO5S
reactant | 3-chloropropyl-p-toluene sulfonate | ClCCCOS(=O)(=O)C1=CC=C(C=C1)C | C10H13ClO3S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3,6-bis(3-chloropropoxy)acridine hydrochloride | Cl.ClCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCl | InChI=1S/C19H19Cl2NO2.ClH/c20-7-1-9-23-16-5-3-14-11-15-4-6-17(24-10-2-8-21)13-19(15)22-18(14)12-16;/h3-6,11-13H,1-2,7-10H2;1H
